US08202856B2
Step 1: Methyl 5-benzyl-1-(2-fluorophenyl)-1H-1,2,3-triazole-4-carboxylate
DBU (1.33 ml; 8.90 mmol; 1.10 eq.) was dissolved in DMF (17 ml) and put under nitrogen atmosphere. 3-Oxo-4-phenyl-butyric acid methyl ester (Chemcollect, 1.711 g; 8.90 mmol; 1.10 eq.) was added to the mixture and it was stirred for 15 min. Then a solution of 1-azido-2-fluorobenzene, prepared according to Platz, M. S. et al. J. Org. Chem. 1989, 54, 5938-5945, (1.11 g; 8.10 mmol; 1 eq.) in DMF (2 mL) was added dropwise to the solution at room temperature. The mixture was stirred at 90° C. for 2 hours. Water (30 mL) was added to the cooled reaction mixture and the aqueous layer was extracted with EtOAc (3×40 mL). Combined organics were washed with water and brine, dried over MgSO4 and concentrated under vacuum giving the title compound as a yellow oil. It was used in the next step without further purification. LC/MS (Method B): 312.1 (M+H)+.

reactant | DBU | 8.90 mmol, 1.33 ml, 1.10 eq. | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 3-Oxo-4-phenyl-butyric acid methyl ester | 8.90 mmol, 1.711 g, 1.10 eq. | COC(CC(CC1=CC=CC=C1)=O)=O | C11H12O3
reactant | 1-azido-2-fluorobenzene | N(=[N+]=[N-])C1=C(C=CC=C1)F | C6H4FN3
reactant | Water | 30 mL | O | H2O
solvent | DMF | 17 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Methyl 5-benzyl-1-(2-fluorophenyl)-1H-1,2,3-triazole-4-carboxylate | C(C1=CC=CC=C1)C1=C(N=NN1C1=C(C=CC=C1)F)C(=O)OC | C17H14FN3O2
